US04294986
Preparation of 3-[4-(3-benzoylpropoxy)-3-chlorophenyl]-1,1-dimethylurea
A mixture of 3-{3-chloro-4-[3-(2-phenyl-1,3-dioxolan-2-yl)propoxy]phenyl}-1,1-dimethylurea (2.03 g; 0.005 mol), tetrahydrofuran (10 ml) and 10% aqueous hydrochloric acid (2 ml) is stirred overnight. The reaction mixture is poured into brine (100 ml) and extracted with methylene chloride. The organic layer is washed with water, dried and evaporated to afford the product: 1.69 g of an off-white solid. Recrystallization from a toluene-hexane mixture (50 ml) yields 1.33 g of cream colored needles, m.p. 129°-130° C.

reactant | 3-{3-chloro-4-[3-(2-phenyl-1,3-dioxolan-2-yl)propoxy]phenyl}-1,1-dimethylurea | 0.005 mol, 2.03 g | ClC=1C=C(C=CC1OCCCC1(OCCO1)C1=CC=CC=C1)NC(N(C)C)=O | C21H25ClN2O4
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | brine | 100 ml | [Cl-].[Na+].O
product | 3-[4-(3-benzoylpropoxy)-3-chlorophenyl]-1,1-dimethylurea | C(C1=CC=CC=C1)(=O)CCCOC1=C(C=C(C=C1)NC(N(C)C)=O)Cl | C19H21ClN2O3
